US06951879B2
In analogy to example 15.1, 3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-yn-1-ol and methane sulfonyl chloride were converted to yield Methanesulfonic acid 3-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester, which was directly subjected to the following reaction.

reactant | 3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-yn-1-ol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCO | C16H10BrNOS
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 3-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCOS(=O)(=O)C | C17H12BrNO3S2
